US05071999
a) Ethyl 10-thia-1,4-diazatricyclo[6.3.0.02,6 ]undecane -4-carboxylate
17.2 g (0.1 mol) of ethyl N-allyl-N-(2-oxoethyl) -carbamate are heated under reflux overnight with 13.5 g (0 1 mol) of thiazolidine-4-carboxylic acid in 300 ml of toluene. The mixture is concentrated and the residue is distilled.

reactant | ethyl N-allyl-N-(2-oxoethyl) -carbamate | 0.1 mol, 17.2 g | C(C=C)N(C(OCC)=O)CC=O | C8H13NO3
reactant | thiazolidine-4-carboxylic acid | 1 mol, 13.5 g | S1CNC(C1)C(=O)O | C4H7NO2S
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 10-thia-1,4-diazatricyclo[6.3.0.02,6 ]undecane -4-carboxylate | N12C3CN(CC3CC2CSC1)C(=O)OCC | C11H18N2O2S
